US03959322
Add solid lithium acetylide-ethylenediamine complex (9.5 g) to 3-methoxyestra-1,3,5(10),8-tetraen-17-one (10 g) in dimethylacetamide (100 ml), stir the mixture for 15 hours and then pour into ice water. Extract with ether-benzene (1:1), and wash, dry and evaporate the organic extract. Recrystallize the residue from methanol to obtain dl-17α-ethynyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol (2.8 g), m.p. 133°-137°; infrared absorption peaks at 3.1 μ, 6.25 μ.

reactant | 3-methoxyestra-1,3,5(10),8-tetraen-17-one | 10 g | COC1=CC=2CCC=3[C@@H]4CCC([C@@]4(C)CCC3C2C=C1)=O | C19H22O2
reactant | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | 17α-ethynyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol | 2.8 g | C(#C)[C@]1([C@]2(C)[C@@H](CC1)C=1CCC=3C=C(C=CC3C1CC2)OC)O | C21H24O2
